US06166006
In toluene/ethanol/water (10/1/1) (24 ml) was dissolved methyl 7-bromo-2,3-dihydro-1-benzoxepine-4-carboxylate (560 mg), and to the mixture were added 5-methyl-2-thienyl borate (875 mg) and potassium carbonate (1.56 g). The mixture was stirred at room temperature for 30 minutes. To the mixture was added tetrakistriphenylphosphine palladium (260 mg), and the mixture was stirred at 100° C. for 24 hours and cooled to room temperature. The mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was removed, and the resulting residue was purified with silica gel column chromatography (hexane/acetone=12/1) to give methyl 7-(5-methyl-2-thienyl)-2,3-dihydro-1-benzoxepine-4-carboxylate (345 mg).

reactant | methyl 7-bromo-2,3-dihydro-1-benzoxepine-4-carboxylate | 560 mg | BrC=1C=CC2=C(C=C(CCO2)C(=O)OC)C1 | C12H11BrO3
reactant | 5-methyl-2-thienyl borate | 875 mg | B(OC=1SC(=CC1)C)([O-])[O-]
reactant | potassium carbonate | 1.56 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol water | 24 ml | C1(=CC=CC=C1)C.C(C)O.O
product | methyl 7-(5-methyl-2-thienyl)-2,3-dihydro-1-benzoxepine-4-carboxylate | 345 mg | CC1=CC=C(S1)C=1C=CC2=C(C=C(CCO2)C(=O)OC)C1 | C17H16O3S
